US06992087B2
Preparation of (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate but substituting (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a light yellow semi-solid. IR (diffuse reflectance) 2969, 2933, 1742, 1604, 1568, 1551, 1482, 1439, 1393, 1372, 1286, 1232, 1204, 1176, 1037 cm−1; OAMS supporting ions at: ESI+ 465.2; MS (EI) m/z 465 (M+); [α]25D=79 (c 0.80, methylene chloride); Anal. Calcd for C26H28ClN3O3: C, 67.02; H, 6.06; N, 9.02. Found: C, 66.99; H, 6.18; N, 8.92.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate | C(C)(=O)O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C25H25Cl2N3O2
reactant | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C24H26ClN3O2
product | (1R,2S)-1-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-yl acetate | C(C)(=O)O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)Cl)CC | C26H28ClN3O3
